US04237054
A mixture of methyl (1RS,4SR,5RS)-4-(5-hydroxy-4-methyl-pentyl)-3,8-dioxabicyclo [3.2.1] octane-1-acetate (420 mg, 1.4 mM) and methylene chloride (5 ml) is added to a mixture of chromium trioxide-pyridine complex (10 mM), methylene chloride (20 ml) and Celite (2 g) at 0° C. and stirred for four hours under nitrogen. The resulting mixture is filtered and washed with ether (100 ml). The filtrate is treated with ether (200 ml) and washed with saturated sodium bicarbonate solution (3×100 ml), saturated cupric sulfate solution (2×100 ml) and dried (sodium sulfate). The solvent is removed in vacuo to give methyl (1RS,4SR,5RS)-4-methyl-4-(4-methyl-5-oxopentyl)-3,8-dioxabicyclo [3.2.1] octane-1-acetate as a colorless oil. This material is homogeneous by thin layer chromatography.

reactant | methyl (1RS,4SR,5RS)-4-(5-hydroxy-4-methyl-pentyl)-3,8-dioxabicyclo [3.2.1] octane-1-acetate | 1.4 mM, 420 mg | OCC(CCCC1OCC2(CCC1O2)CC(=O)OC)C | C15H26O5
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl (1RS,4SR,5RS)-4-methyl-4-(4-methyl-5-oxopentyl)-3,8-dioxabicyclo [3.2.1] octane-1-acetate | CC1(OCC2(CCC1O2)CC(=O)OC)CCCC(C=O)C | C16H26O5
